US09102623B2
N-[(Dimethylamino)methylene]-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide
0.87 g (7.28 mmol) of N,N-dimethylformamide dimethyl acetal was added to 1.00 g (4.85 mmol) of 2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide in 5 ml of toluene, and the mixture was heated under reflux for 4 h. After cooling, the resulting precipitate was filtered off with suction and dried: 0.5 g (39% of theory).

reactant | N,N-dimethylformamide dimethyl acetal | 7.28 mmol, 0.87 g | COC(N(C)C)OC | C5H13NO2
reactant | 2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide | 4.85 mmol, 1.00 g | O=C1NC(=CC=C1C(=O)N)C(F)(F)F | C7H5F3N2O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(Dimethylamino)methylene]-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide | CN(C)C=NC(=O)C=1C(NC(=CC1)C(F)(F)F)=O | C10H10F3N3O2
